US06004991
145 mg of N-[2-(5-methoxyindol-3-yl)ethyl]glutarimide are dissolved in DMSO (30 μl) in a round-bottomed flask and concentrated HCl (72 μl) is added with stirring. The mixture is stirred overnight at room temperature. The crude product is neutralized with NH3 and then extracted with EtOAc. After separation on a silica plate, N-[2-(5-methoxy-2-oxo-2,3-dihydroindol-3-yl)ethyl]-glutarimide is obtained.

reactant | N-[2-(5-methoxyindol-3-yl)ethyl]glutarimide | 145 mg | COC=1C=C2C(=CNC2=CC1)CCN1C(CCCC1=O)=O | C16H18N2O3
reactant | HCl | 72 μl | Cl | ClH
reactant | NH3 | N | H3N
reactant | DMSO | 30 μl | CS(=O)C | C2H6OS
product | N-[2-(5-methoxy-2-oxo-2,3-dihydroindol-3-yl)ethyl]-glutarimide | COC=1C=C2C(C(NC2=CC1)=O)CCN1C(CCCC1=O)=O | C16H18N2O4
